US07138395B2
Preparation of 4-(tert-butyl-dimethyl-silanyloxy)-3-({7-[(naphthalene-2-carbonyl)-amino]-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carbonyl}-amino)-butyric acid (115):
4-(tert-Butyl-dimethyl-silanyloxy)-3-({7-[(naphthalene-2-carbonyl)-amino]-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carbonyl}-amino)-butyric acid benzyl ester, 114, (0.52 gm) is dissolved in 10 mL methanol, to which 1.73 mL of 1N aqueous sodium hydroxide is added at RT. The reaction is stirred for 5 h and a second aliquot (0.7 mL) of 1N sodium hydroxide solution is added. The reaction is allowed to proceed for 18 h at RT. Water is added and the mixture is extracted three times with diethyl ether. The aqueous layer is then acidified to pH ˜3 with 10% aqueous citric acid, and extracted with ethyl acetate. The organic layer is washed with saturated aqueous sodium chloride, dried over sodium sulfate powder, and concentrated in vauo to afford the desired product.

reactant | 4-(tert-Butyl-dimethyl-silanyloxy)-3-({7-[(naphthalene-2-carbonyl)-amino]-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carbonyl}-amino)-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(CC(CO[Si](C)(C)C(C)(C)C)NC(=O)C1CCCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O)=O | C40H51N3O6Si
reactant | Water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 1.73 mL | [OH-].[Na+]
solvent | sodium hydroxide | 1N, 0.7 mL | [OH-].[Na+]
product | 4-(tert-butyl-dimethyl-silanyloxy)-3-({7-[(naphthalene-2-carbonyl)-amino]-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carbonyl}-amino)-butyric acid | C(C)(C)(C)[Si](OCC(CC(=O)O)NC(=O)C1CCCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O)(C)C | C33H45N3O6Si
